US07214802B2
N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-3-[4-(6-chloro-pyridin-3-yl)-[1,2,3]triazol-1-yl]-4-methyl-benzamide
3-[4-(6-Chloro-pyridin-3-yl)-1,2,3-triazol-1-yl]-4-methyl-benzoic acid (470 mg; 1.49 mmol), N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methane-sulfonamide (WO 02/083628) (488 mg; 1.79 mmol), and 0.87 mL (5.0 mmol) of DIPEA were combined in 15 mL DMF. Then 1.14 g (2.99 mmol) of HATU and 403 mg (2.99 mmol) of HOBt were added and the dark brown solution was stirred overnight at room temperature. The mixture was then partitioned between EtOAc and water. The layers were separated and the organic portion was washed with water (2×50 mL), brine (50 mL), dried (MgSO4), filtered, and concentrated. Chromatography provided 375 mg (0.66 mmol; 44%) of the title compound with 95% purity. ESI MS m/z 569 [C27H29ClN6O4S+H]+.

reactant | 3-[4-(6-Chloro-pyridin-3-yl)-1,2,3-triazol-1-yl]-4-methyl-benzoic acid | 1.49 mmol, 470 mg | ClC1=CC=C(C=N1)C=1N=NN(C1)C=1C=C(C(=O)O)C=CC1C | C15H11ClN4O2
reactant | N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methane-sulfonamide | 1.79 mmol, 488 mg | NC=1C(=C(C=C(C1)C(C)(C)C)NS(=O)(=O)C)OC | C12H20N2O3S
reactant | DIPEA | 5.0 mmol, 0.87 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 2.99 mmol, 1.14 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 2.99 mmol, 403 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-3-[4-(6-chloro-pyridin-3-yl)-[1,2,3]triazol-1-yl]-4-methyl-benzamide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C1=CC(=C(C=C1)C)N1N=NC(=C1)C=1C=NC(=CC1)Cl)=O)OC)NS(=O)(=O)C | C27H29ClN6O4S
